US07384961B2
50 ml n-butyllithium solution (2.5 mol/l in hexane) were added dropwise to a solution of 12.1 ml 3-bromopyridine in 180 ml analytical grade diethyl ether at a temperature of −45 to −50° C. in the course of 30 minutes. After a further 20 minutes at this temperature, 25.2 g 2-[(benzylmethylamino)methyl]cyclohexanone, dissolved in 50 ml analytical grade diethyl ether, were added dropwise in the course of 30 minutes, with continued cooling, and the mixture was subsequently stirred for a further 60 minutes. The cooling was then removed and 54 ml water were added, while warming the reaction mixture from −20 to 0° C., the phases were separated, the aqueous phase was extracted twice with a mixture of equal volumes of tetrahydrofuran and ethyl acetate, the combined organic phases were dried over magnesium sulfate and filtered and the filtrate was concentrated. The crude product obtained (33.0 g) was chromatographed on silica gel first with acetone/ethyl acetate (V:V=1:2) and then again with pure ethyl acetate, the product fraction obtained (23.6 g) was dissolved in 230 ml ethyl acetate, and 2.74 ml water and 19.3 ml chlorotrimethylsilane were added and the mixture, from which an oil settled out, was concentrated to dryness. The residue was taken up in 90 ml water and 17.9 ml sodium hydroxide solution (32 percent strength by weight), the mixture was extracted twice with 90 ml ethyl acetate each time, the combined extracts were dried over magnesium sulfate and filtered and the filtrate was concentrated. 23.6 g of crude product were again obtained, to which, after dissolving in 230 ml acetone, 2.74 ml water and 19.3 ml chlorotrimethylsilane, dissolved in 100 ml acetone, were added. The supernatant was decanted off from the solid formed and the residue was heated to 50° C. with 230 ml acetone. After cooling, the supernatant was decanted off again and the residue was dried in vacuo (50 mbar) at 50° C. 28.8 g 2-[(benzylmethylamino)methyl]-1-pyridin-3-yl-cyclohexanol hydrochloride were obtained.

reactant | n-butyllithium | 2.5 mol/l, 50 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 12.1 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2-[(benzylmethylamino)methyl]cyclohexanone | 25.2 g | C(C1=CC=CC=C1)CNCC1C(CCCC1)=O | C15H21NO
reactant | chlorotrimethylsilane | 19.3 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | chlorotrimethylsilane | 19.3 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | 230 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | 230 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 230 ml | CC(=O)C | C3H6O
solvent | water | 2.74 ml | O | H2O
solvent | water | 2.74 ml | O | H2O
product | 2-[(benzylmethylamino)methyl]-1-pyridin-3-yl-cyclohexanol hydrochloride | 28.8 g | Cl.C(C1=CC=CC=C1)CNCC1C(CCCC1)(O)C=1C=NC=CC1 | InChI=1S/C20H26N2O.ClH/c23-20(19-10-6-13-21-15-19)12-5-4-9-18(20)16-22-14-11-17-7-2-1-3-8-17;/h1-3,6-8,10,13,15,18,22-23H,4-5,9,11-12,14,16H2;1H
